US08685974B2
3-(4-bromo-2-thienyl)-1H-pyrazole (8.7 mmol) was dissolved in 20 mL dry N,N-dimethylformamide under argon atmosphere. Sodium hydride (10.5 mmol, 60% dispersion in mineral oil) was added in portions at room temperature. The reaction mixture was stirred at room temperature for 15 min. Isopropyl iodide (13.1 mmol) was added dropwise and the reaction mixture was stirred at room temperature for 14 h. Water and MTBE were added to the reaction mixture. The phases were separated and the aqueous phase was extracted with MTBE. The combined organic extracts were successively washed with water and brine, dried over MgSO4, filtered and concentrated. The residue was purified by chromatography on silica gel (cyclohexane:ethyl acetate 100:0 to 0:100) to afford 1.90 g 3-(4-bromo-2-thienyl)-1-isopropyl-1H-pyrazole (71% yield). Traces of the minor regioisomer 5-(4-bromo-2-thienyl)-1-isopropyl-1H-pyrazole were collected and analyzed as well.

reactant | 3-(4-bromo-2-thienyl)-1H-pyrazole | 8.7 mmol | BrC=1C=C(SC1)C1=NNC=C1 | C7H5BrN2S
reactant | Sodium hydride | 10.5 mmol | [H-].[Na+]
reactant | Isopropyl iodide | 13.1 mmol | C(C)(C)I | C3H7I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 3-(4-bromo-2-thienyl)-1-isopropyl-1H-pyrazole | 1.90 g, 71% yield | BrC=1C=C(SC1)C1=NN(C=C1)C(C)C | C10H11BrN2S
